US08420678B2
Ethyl 2-(5-Amino-1,3,4-thiadiazol-2-yl)acetate.
Thiosemicarbazide (1.0 g, 11.0 mmol) and ethyl 3-ethoxy-3-iminopropionate hydrochloride (2.0 g, 10.0 mmol) were mixed in glacial acid (2 mL) for 10 min at 55° C. and then boiled for 1.5 h. The reaction mixture was evaporated, diluted with cold water, carefully neutralized with NaHCO3, and cooled to 5° C. The precipitate was collected and crystallized from water to yield 0.88 g (4.70 mmol, 47%) of the product, mp 149-150° C.; 1H NMR (300 MHz, DMSO-d6) δ 1.19 (t, 3H, J=7.2 Hz), 3.96 (s, 2H), 4.10 (q, 2H, J=6.9 Hz), 7.11 (s, 2H); 13C NMR (75 MHz, DMSO-d6) δ 14.0, 35.4, 60.9, 150.4, 168.9, 169.6.

reactant | Thiosemicarbazide | 11.0 mmol, 1.0 g | NNC(=S)N | CH5N3S
reactant | ethyl 3-ethoxy-3-iminopropionate hydrochloride | 10.0 mmol, 2.0 g | Cl.C(C)OC(CC(=O)OCC)=N
product | Ethyl 2-(5-Amino-1,3,4-thiadiazol-2-yl)acetate | 4.70 mmol, 0.88 g, 47% | NC1=NN=C(S1)CC(=O)OCC | C6H9N3O2S
